Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Augmentin / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mrs. ___ is a ___ y.o. female with a past history of 
COPD/Asthma, who reported increased dyspnea over approximately 
one week.  Apparently, her husband came home almost a week ago 
with a "cold" and she then developed a non-productive cough, 
malaise, dyspnea on exertion and eventually an inability to 
sleep due to dyspnea.  She denied the presence of fevers, 
chills, or chest pain.  Over the past 3 days her dyspnea 
increased and today she appeared in significant distress.  She 
was brought to the ED.  She has had several admissions in the 
past for dyspnea/COPD exacerbation, has been on BiPAP, never 
been intubated.
.  
In the ED on arrival, VS:  Temp 98.8; BP 129/61; HR 95; RR 28; 
SpO2 80% on RA.  She arrived ambulatory from home with family 
(who reported cough productive with yellow sputum).  Blood gases 
after 3.5 L for 4 minutes revealed hypoxia with PO2 61 and PCO2 
47.  She received 3 combivent nebs with marked improvement. A 
CXR was suggestive of pneumonia.  She was given prednisone and 
levofloxacin and admitted for COPD exacerbation/pneumonia.  On 
transfer to the floor, VS: Temp 98.8; BP 140/47; HR 102; RR 20; 
SpO2 93% on 3L.
.  
Currently, her dyspnea is much better.  She denied chest pain, 
or other symptoms.  Her daughter, a nurse, was with her and able 
to assist with much of the history, as the patient reproted her 
memory was poor.  Her daughter reported that the patient became 
confused during previous admission.
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  She refuses to have a 
mammogram or colonoscopy.

 
Past Medical History:
1. COPD/Ashtma
2. Hypertension
3. Hyperlipidemia
4. Type II Diabetes
5. Peripheral Neuropathy
6. s/p MRSA osteomyelitis in right foot with 3 surgical 
debridements
7. s/p MRSA bacteremia in ___. ?Dementia (reported by daughter)
9. Bilateral cataract surgery
 
Social History:
___
Family History:
Her father was a smoker and exposed to asbestos, died of lung 
cancer at age ___.  Her mother died form with complications from 
Alzheimer's at age ___.  One sister survived breast CA.
 
Physical Exam:
Vitals - T: 99.3; BP: 128/76; HR: 100; RR: 20; SpO2: 93% on 3L
GENERAL: Pleasant, female with mild respiratory distress.  
Speaks in near full sentences, slight tachypnea.
HEENT: Normocephalic, atraumatic. Conjunctiva moist and pink. No 
scleral icterus. PERRLA, EOMs intact. Mucosa pink and moist. 
Neck Supple, No LAD, No thyromegaly.  
CARDIAC: Regular rhythm, tachy rate. Normal S1, S2. No murmurs, 
rubs or ___. No gross JVD.
LUNGS: Good, equal chest excursion.  Lung sounds with rales and 
rhonchi in right lower lobe, slight in left base.  Scattered 
expiratory wheezes throughout.  No egophony.
ABDOMEN: Protuberant.  Positive bowel sounds.  Soft, non-tender 
to palpation. 
EXTREMITIES: No peripheral edema, positive pain in left calf, 2+ 
dorsalis pedis pulses.  Noted deformed toenails and prior 
surgery on right foot.
SKIN: Pink/hot/dry.  No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate, seems slightly confused, refers many 
answers to daughter. CN ___ grossly intact. Sensation and 
moevement grossly intact in all extremities.
PSYCH: Listens and responds to questions appropriately, 
pleasant. 
 
Pertinent Results:
IMAGING: 
CXR ___ - IMPRESSION: Patchy airspace opacities, most 
notable in the right lung base, but also in the right mid lung 
and likely also left lower lung. Findings are concerning for 
aspiration or pneumonia. 
.
MICROBIOLOGY:  Blood cultures ___ - pending
.
LAB DATA:
LABS ON ADMISSION:
___ 10:45AM BLOOD WBC-19.3* RBC-5.09 Hgb-14.9 Hct-44.3 
MCV-87 MCH-29.3 MCHC-33.7 RDW-14.2 Plt ___
___ 10:45AM BLOOD Neuts-86.3* Lymphs-9.0* Monos-3.8 Eos-0.7 
Baso-0.2
___ 10:45AM BLOOD Plt ___
___ 10:45AM BLOOD Glucose-170* UreaN-24* Creat-1.0 Na-139 
K-4.6 Cl-99 HCO3-28 AnGap-17
___ 10:45AM BLOOD cTropnT-<0.01
___ 10:45AM BLOOD CK-MB-5
___ 10:50AM BLOOD Type-ART pO2-61* pCO2-47* pH-7.40 
calTCO2-30 Base XS-2
___ 10:50AM BLOOD Lactate-1.0
.
LABS ON DISCHARGE:
 
Brief Hospital Course:
___ y.o. woman with a past history of COPD and asthma that 
presented with increasing dyspnea and cough.  
.  
# Dyspnea: Likely due to COPD exacerbation with pneumonia 
suggested by CXR. ___ have occured in the setting of a URI given 
her husband's recent cold symptoms, but may also be due 
COPD/asthma exacerbation alone. Respiratory status has improved 
significantly since she presented to the ED. Infleunza was 
negative Does not appear to be volume overloaded, making CHF 
less likely. PE unlikely given her presentation and response to 
bronchodilators. Given her baseline respiratory dysfunction, she 
will likely need pulmonary rehab prior to returning home. She is 
not a candidate for home oxygen because she continues to smoke.  
If she can quit, she should start on nighttime home oxygen. 
Smoking cessation was discussed.  She had a nicotine patch and 
was discharged on chantix.  She plans not to smoke on this 
medication and knows to watch for depression and altered dreams.
She was discharged with a steroid taper, plan to complete a 10 
day course of antibiotics, and nebs for COPD/Asthma.  She should 
continue oxygen as needed. 
.  
Leukocytosis: Elevated WBC prior to steroids. Decreased during 
admission. Likely related to pneumonia, as suggested by CXR. 
This trended down.  
.  
# Hypertension: Well controlled with home medications. HCTZ, 
metoprolol and norvasc were continued, BP remained stable.  
.  
# Type II Diabetes: Glucose checks qid, standing coverage with 
70/30 and sliding scale.  Her 70/30 was increased while on 
prednisone and she was started on metformin.
.  
# Hyperlipidemia: Continued her simvastatin.  
.  
# Peripheral Neuropathy: Continued with her gabapentin.  
.  
# ? Dementia: Patient is on aricept, she and her daughter 
reported forgetfulness. Aricept was continued and she was 
monitored closely for delerium.  
.  
# CODE: Remains FULL code at this time. Patient did express that 
she may not want to be resuscitated/intubated, but further 
discussion with patient and family is required. She does not 
have a health care proxy.  
.  
# CONTACT: With patient and her daughter.  

 
Medications on Admission:
Albuterol - 90mcg aerosol prn
Citalopram - 10 mg PO daily
Fluticasone-Salmeterol (Advair) - 250 mcg-50 mcg inhaled bid
Gabapentin - 300 mg PO qhs
HCTZ - 25 mg PO daily
Metoprolol Succinatate - 150 mg PO daily
Simvastatin - 40 mg PO qhs
ASA - 81 mg PO daily
Norvasc - 5 mg PO daily
Aricept - 5 mg PO daily
Insulin NPH and Regular (Humulin 70/30) - 32 units, QAM and QPM
 
Discharge Medications:
1. Prednisone 10 mg Tablet Sig: as directed Tablet PO once a day 
for 12 days: 6 tabs for 2 days, then 4 tabs for 2 days, then 3 
tabs for 2 days, then 2 tabs for 2 days, then 1 tab for 2 days 
then ___ tab for 2 days.
Disp:*43 Tablet(s)* Refills:*0*
2. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___  Inhalation every four (4) hours as needed for shortness of 
breath or wheezing.  
3. Chantix 0.5(11)-1(3X14) mg Tablets, Dose Pack Sig: ___ 
Tablets, Dose Packs PO as directed for 11 weeks: 0.5 mg daily 
for 3 days, then 0.5 mg BID for 4 days, then 1 mg BID.
Disp:*1 Tablets, Dose Pack(s)* Refills:*0*
4. Citalopram 10 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
7. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
8. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: Three (3) Tablet Sustained Release 24 hr PO once a day.  
9. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
12. Donepezil 5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
13. Insulin NPH & Regular Human 100 unit/mL (70-30) Suspension 
Sig: ___ (32)  Subcutaneous twice a day: Take 40 units 
twice daily for the next ___ days while on prednisone.  
14. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Inh Inhalation once a day.
Disp:*QS 1 month unit* Refills:*2*
15. Cefpodoxime 200 mg Tablet Sig: One (1) Tablet PO twice a day 
for 7 days.
Disp:*14 Tablet(s)* Refills:*0*
16. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 7 days.  
17. Metformin 500 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Priamry: COPD exacerbation, penumonia.
Secondary: Hypertension, Type II Diabetes, Hyperlipidemia, 
Peripheral Neuropathy, Dementia: 

 
Discharge Condition:
Stable
 
Discharge Instructions:
You were admitted for shortness of breath.  You were treated a 
COPD exacerbation and pneumonia and were given frequent 
nebulizers, supplemental oxygen, oral steroids and antibiotics 
with improvement in your breathing.  You were also given a 
nicotine patch and encouraged to stop or reduce your smoking, 
which is likely contributing to your condition.  

You were started on a new medication, chantix, to help with 
smoking cessation.  Please watch for depressed mood or strange 
dreams on this medication and report these symptoms to your PCP.

You were started on Spireva for better COPD control as well as a 
taper of prednisone.  You were given increased insulin and 
metformin to help control your blood sugars while on the 
prednisone.  You should comeplete a 10 day course of 
antibiotics.

Please call your primary care physician or come to the emergency 
room if you experience worsening breathing difficulties that do 
not respond to inhalers, fevers, chills, chest pain, or other 
concerning symptoms.

 
Followup Instructions:
___